US07432291B2
A mixture of 201 mg (0.86 mmol) 3-methyl-4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol and 169 mg (0.52 mmol) cesium carbonate in 10 ml 2-butanone was stirred at 60° C. for 30 minutes, then 246 mg (0.86 mmol) 4-chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole and 143 mg (0.86 mmol) potassium iodide were added and stirring was continued overnight. After evaporation, the residue was mixed with aqueous NaOH (1N) and extracted with ethyl acetate. The combined extracts were dried, evaporated and the product purified on silica (ethyl acetate) to yield 242 mg (59%) 1-[2-(4-{2-[2-(4-Difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-2-methyl-benzyloxy)-ethyl]-1H-[1,2,3]triazole as a white solid melting at 119-120° C.

reactant | 3-methyl-4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol | 0.86 mmol, 201 mg | CC=1C=C(C=CC1COCCN1N=NC=C1)O | C12H15N3O2
reactant | cesium carbonate | 0.52 mmol, 169 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole | 0.86 mmol, 246 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)F | C13H10ClF2NO2
reactant | potassium iodide | 0.86 mmol, 143 mg | [I-].[K+]
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | 1-[2-(4-{2-[2-(4-Difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-2-methyl-benzyloxy)-ethyl]-1H-[1,2,3]triazole | 242 mg, 59% | FC(OC1=CC=C(C=C1)C=CC=1OC=C(N1)COC1=CC(=C(COCCN2N=NC=C2)C=C1)C)F | C25H24F2N4O4
